US05877199
tert-Butyl [9-(3-Fluorobenzyl)-4-methyl-1-methylthiocarbazol-2-yl]acetate
Following a procedure and using relative proportions of starting materials similar to those described in Example 4, but using tert-butyl (4-methyl-1-methylthiocarbazol-2-yl)acetate and 3-fluorobenzyl bromide as starting materials, the title compound was obtained in a yield of 90% as an oil.

reactant | tert-butyl (4-methyl-1-methylthiocarbazol-2-yl)acetate | CC1=CC(=C(C=2NC3=CC=CC=C3C12)SC)CC(=O)OC(C)(C)C | C20H23NO2S
reactant | 3-fluorobenzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | tert-Butyl [9-(3-Fluorobenzyl)-4-methyl-1-methylthiocarbazol-2-yl]acetate | yield of 90% | FC=1C=C(CN2C3=CC=CC=C3C=3C(=CC(=C(C23)SC)CC(=O)OC(C)(C)C)C)C=CC1 | C27H28FNO2S
